US07517996B2
(Step 1) Synthesis of ethyl 5-(4-{4-[1-(2-chlorophenyl)ethoxycarbonylamino]-3-isoxazolyl}phenoxy)pentanoate
To a solution (2 ml) of 1-(2-chlorophenyl)ethyl 3-(4-hydroxyphenyl)-4-isoxazolylcarbamate (80 mg, 0.223 mmol) in N,N-dimethylformamide were added potassium carbonate (60 mg, 0.435 mmol) and ethyl 5-bromovalerate (60 mg, 0.287 mmol), and the mixture was stirred at 100° C. for 1 hour. Water was added, the mixture was extracted with ethyl acetate, and the extract was washed with saturated brine and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure, and the obtained residue was purified by silica gel column chromatography (hexane:ethyl acetate=4:1) to give the title compound (59 mg, 55%).

reactant | 1-(2-chlorophenyl)ethyl 3-(4-hydroxyphenyl)-4-isoxazolylcarbamate | 0.223 mmol, 2 ml, 80 mg | OC1=CC=C(C=C1)C1=NOC=C1NC(OC(C)C1=C(C=CC=C1)Cl)=O | C18H15ClN2O4
reactant | potassium carbonate | 0.435 mmol, 60 mg | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl 5-bromovalerate | 0.287 mmol, 60 mg | BrCCCCC(=O)OCC | C7H13BrO2
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | ethyl 5-(4-{4-[1-(2-chlorophenyl)ethoxycarbonylamino]-3-isoxazolyl}phenoxy)pentanoate | 59 mg, 55% | ClC1=C(C=CC=C1)C(C)OC(=O)NC=1C(=NOC1)C1=CC=C(OCCCCC(=O)OCC)C=C1 | C25H27ClN2O6
